US03991010
a. Preparation of vinylphosphonic acid diallyl ester
146 g of vinylphosphonic acid dichloride (1 mole) were added while stirring to a solution of 116 g (2 moles) of allyl alcohol in 1000 ml of anhydrous chloroform at 0° C and subsequently 288 g of triethylamine were introduced dropwise within approximately one hour. After suction, the solid residue (triethylamine hydrochloride) was dissolved in water, the oily layer formed was separated and combined with the filtrate. The filtrate was extracted four times with 600 ml of water each time in order to remove the chlorine, dried over sodium sulfate and the chloroform was distilled off in the rotation evaporator. 190 g of a brown liquid were obtained, having a boiling point of from 75° to 80° C at 5 mm Hg.

reactant | vinylphosphonic acid dichloride | 1 mole, 146 g | C(=C)P(=O)(Cl)Cl | C2H3Cl2OP
reactant | allyl alcohol | 2 moles, 116 g | C(C=C)O | C3H6O
reactant | triethylamine | 288 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
reactant | water | O | H2O
solvent | chloroform | 1000 ml | C(Cl)(Cl)Cl | CHCl3
product | vinylphosphonic acid diallyl ester | 190 g | C(C=C)OP(OCC=C)(=O)C=C | C8H13O3P
